US08669234B2
To 4-Hydroxy-pyrrolidine-1,2-dicarboxylic acid 2-[2-(4-bromo-phenyl)-2-oxo-ethyl]ester 1-tert-butyl ester (500 mg) and Cu(I)I (45 mg) in MeCN (8 mL) at 45° C. was added 242 μl of difluoro-fluorosulfonyl-acetic acid in 2 mL of MeCN dropwise for 60 min. The reaction mixture was stirred at 45° C. for 60 min. and evaporated under reduced pressure, and resulting residue was taken up in ethyl acetate (100 mL). The organic phase was washed with brine (1×100 mL) and dried over sodium sulfate. After the solvent was removed, the resulting oil was subjected to silica gel chromatography using effluent of 10-50% ethyl acetate and hexanes. The fractions containing product were combined and the solvent was removed under reduced pressure to provide 4-Difluoromethoxy-pyrrolidine-1,2-dicarboxylic acid 2-[2-(4-bromo-phenyl)-2-oxo-ethyl]ester 1-tert-butyl ester (339 mg, 61%) as a clear oil.

reactant | 4-Hydroxy-pyrrolidine-1,2-dicarboxylic acid 2-[2-(4-bromo-phenyl)-2-oxo-ethyl]ester 1-tert-butyl ester | 500 mg | C(C)(C)(C)OC(=O)N1C(CC(C1)O)C(=O)OCC(=O)C1=CC=C(C=C1)Br | C18H22BrNO6
reactant | difluoro-fluorosulfonyl-acetic acid | 242 μl | FC(C(=O)O)(S(=O)(=O)F)F | C2HF3O4S
solvent | MeCN | 8 mL | CC#N | C2H3N
solvent | MeCN | 2 mL | CC#N | C2H3N
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | 4-Difluoromethoxy-pyrrolidine-1,2-dicarboxylic acid 2-[2-(4-bromo-phenyl)-2-oxo-ethyl]ester 1-tert-butyl ester | 339 mg, 61% | C(C)(C)(C)OC(=O)N1C(CC(C1)OC(F)F)C(=O)OCC(=O)C1=CC=C(C=C1)Br | C19H22BrF2NO6
